US07910595B2
2-Amino-2-phenylbutan-1-ol
A solution of ethyl 2-amino-2-phenylbutanoate (0.162 g, 0.782 mmol) in 1:3 v/v water/ethanol (4 mL) was reacted with sodium borohydride (0.151 g, 3.908 mmol) at reflux for four hours. The reaction was concentrated and partition between water (5 mL), ethyl ether (10 mL) and 1N aqueous sodium hydroxide (0.39 mL). Solid sodium chloride was added to saturate the aqueous and separate the phases. The aqueous phase was separated and re-extracted with ethyl ether (2×20 mL). The combined ethereal extracts were washed with brine (25 mL), dried over potassium carbonate, filtered, and concentrated by rotary evaporation to afford the title compound as an oil (0.116 g, 0.702 mmol, 90%). 1H NMR (300 MHz, DMSO-D6) δ ppm 0.59 (t, J=7.54 Hz, 3 H) 1.49-1.80 (m, 4 H) 3.44 (d, J=5.15 Hz, 2 H) 4.63 (t, J=5.52 Hz, 1 H) 6.89-7.76 (m, 5 H). MS (DCI) m/z 166 (M+H)+.

reactant | ethyl 2-amino-2-phenylbutanoate | 0.782 mmol, 0.162 g | NC(C(=O)OCC)(CC)C1=CC=CC=C1 | C12H17NO2
reactant | sodium borohydride | 3.908 mmol, 0.151 g | [BH4-].[Na+]
solvent | water ethanol | 4 mL | O.C(C)O
product | 2-Amino-2-phenylbutan-1-ol | 0.702 mmol, 0.116 g, 90% | NC(CO)(CC)C1=CC=CC=C1 | C10H15NO
